US06759420B1
b) (S)-{[(1-Carbamimidoyl-piperidin-4-ylmethyl)-carbamoyl]-cyclohexyl-methyl}-carbamic acid tert-butyl ester hydrochloric acid salt
The title compound was prepared using (S)-tert-butoxycarbonylamino-cyclohexyl-acetic acid (10.1 g, 39.28 mmol), 4-aminomethyl-piperidine-1-carboxamidine dihydrochloride (9.0 g, 39.28 mmol) , HATU (14.9 g, 39.28 mmol), and collidine (15.6 ml, 117.8 mmol) in dimethylformamide as described in example 223 a).

reactant | (S)-tert-butoxycarbonylamino-cyclohexyl-acetic acid | 39.28 mmol, 10.1 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1CCCCC1 | C13H23NO4
reactant | 4-aminomethyl-piperidine-1-carboxamidine dihydrochloride | 39.28 mmol, 9.0 g | Cl.Cl.NCC1CCN(CC1)C(=N)N
reactant | HATU | 39.28 mmol, 14.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | collidine | 117.8 mmol, 15.6 ml | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (S)-{[(1-Carbamimidoyl-piperidin-4-ylmethyl)-carbamoyl]-cyclohexyl-methyl}-carbamic acid tert-butyl ester hydrochloric acid salt | Cl.C(C)(C)(C)OC(N[C@@H](C1CCCCC1)C(NCC1CCN(CC1)C(N)=N)=O)=O | InChI=1S/C20H37N5O3.ClH/c1-20(2,3)28-19(27)24-16(15-7-5-4-6-8-15)17(26)23-13-14-9-11-25(12-10-14)18(21)22;/h14-16H,4-13H2,1-3H3,(H3,21,22)(H,23,26)(H,24,27);1H/t16-;/m0./s1
